US06462069B2
3-Acetyl-4-cyclohex-1-enyl-thiophene
Prepared from 3-bromo-4-cyclohex-1-enyl-thiophene (See MacDowell; Jeffries J. Org. Chem., 1970, 35, 871-875 incorporated herein by reference), in 31% yield analogous to the procedure for the preparation of 4-acetyl-3-bromo-thiophene. 1H NMR (300 MHz, CDCl3) δ7.90(d, 1H, J=2.7 Hz), 6.97 (d, 1H, J=2.7 Hz), 5.66 (q, 1H, J=1.8 Hz), 2.49 (s, 3H), 2.15-2.19 (m, 4H), 1.64-1.79 (m, 4H).

reactant | 3-bromo-4-cyclohex-1-enyl-thiophene | BrC1=CSC=C1C1=CCCCC1 | C10H11BrS
reactant | 4-acetyl-3-bromo-thiophene | C(C)(=O)C=1C(=CSC1)Br | C6H5BrOS
product | 3-Acetyl-4-cyclohex-1-enyl-thiophene | 31% yield | C(C)(=O)C1=CSC=C1C1=CCCCC1 | C12H14OS
